US07423158B2
A mixture of N-propyl amine (0.33 mL, 4.1 mmol) and triethylamine (0.83 mL, 5.8 mmol) in methylene chloride was cooled to −5° C., treated with 3-bromobenzoyl chloride (1 g, 4.5 mmol), warmed to room temperature, stirred at room temperature for 1 h, poured into aqueous sodium bicarbonate and extracted with methylene chloride. The extracts were combined, washed sequentially with water and brine, dried over magnesium sulfate and concentrated under reduced pressure. The resultant residue was purified by flash chromatography on silica gel, 2:1 hexane/ethyl acetate as eluent, to give 3-bromo-N-propyl-benzamide as a white solid, 0.74 g (67% yield); 1H NMR (DMSO-d6) δ 0.8 (t, 3H); 1.5 (m, 2H); 3.2 (t, 2H); 7.4 (t, 1H); 7.6 (d, 1H), 7.8 (d, 1H); 7.9 (s, 1H); 8.5 (b, 1H); MS [(+)ESI] m/z 242[M−H]+.

reactant | N-propyl amine | 4.1 mmol, 0.33 mL | C(CC)N | C3H9N
reactant | triethylamine | 5.8 mmol, 0.83 mL | C(C)N(CC)CC | C6H15N
reactant | 3-bromobenzoyl chloride | 4.5 mmol, 1 g | BrC=1C=C(C(=O)Cl)C=CC1 | C7H4BrClO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-bromo-N-propyl-benzamide | 67% yield | BrC=1C=C(C(=O)NCCC)C=CC1 | C10H12BrNO
